US07135482B2
3-(4-Fluorobenzyl)-N-phenoxy-3H-imidazo[4,5-c]pyridine-6-carboxamide
The title compound was prepared by coupling of 3-(4-fluoro-benzyl)-3H-imidazo[4,5-c]pyridine-6-carboxylic acid and N-phenoxyamine hydrochloride under the same conditions as those in step (c) of example 1. 1H NMR (300 MHz, MeOH-d4) δ; 8.82 (s, 1H), 8.53 (s, 1H), 8.43 (s, 1H), 8.24 (d, 2H, J=7.9 Hz), 7.38–7.33 (m, 2H), 7.07–7.01 (m, 2H), 6.88–6.74 (m, 3H), 5.57 (s, 2H). LCMS (API-ES, M+H+): 363.1. HRMS calcd for C20H16FN4O2 (M+H) 363.1257. found 363.1256. HPLC: >85% purity.

reactant | 3-(4-fluoro-benzyl)-3H-imidazo[4,5-c]pyridine-6-carboxylic acid | FC1=CC=C(CN2C=NC3=C2C=NC(=C3)C(=O)O)C=C1 | C14H10FN3O2
reactant | N-phenoxyamine hydrochloride | Cl.O(C1=CC=CC=C1)N
product | 3-(4-Fluorobenzyl)-N-phenoxy-3H-imidazo[4,5-c]pyridine-6-carboxamide | FC1=CC=C(CN2C=NC3=C2C=NC(=C3)C(=O)NOC3=CC=CC=C3)C=C1 | C20H15FN4O2
